US06306859B1
Cyclohexanecarboxylic acid {2-[4-(2,3-dihydro-benzo[1,4]dioxin-5-yl)-piperazin-1-yl-]ethyl}-amide
A solution of 2-[4-(2,3-dihydro-benzo[1,4]dioxin-5-yl)-piperazin-1-yl-]ethylamine (0.20 g, 0.76 mmol) in dichloromethane (5 mL) was treated with cyclohexanecarbonyl chloride (0.11 g, 0.76 mmol) at 0° C. under a nitrogen atmosphere. The resulting mixture was stirred overnight, during which time it came up to room temperature. The product was precipitated by the addition of hexane to yield the hydrochloride semihydrate salt of the titled compound (0.25 g, 80%) as a white solid; mp=165-166° C.; MS (+) ESI m/z=374 (M+H)+.

reactant | 2-[4-(2,3-dihydro-benzo[1,4]dioxin-5-yl)-piperazin-1-yl-]ethylamine | 0.76 mmol, 0.20 g | O1CCOC2=C1C=CC=C2N2CCN(CC2)CCN | C14H21N3O2
reactant | cyclohexanecarbonyl chloride | 0.76 mmol, 0.11 g | C1(CCCCC1)C(=O)Cl | C7H11ClO
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | Cyclohexanecarboxylic acid {2-[4-(2,3-dihydro-benzo[1,4]dioxin-5-yl)-piperazin-1-yl-]ethyl}-amide | 0.25 g, 80% | O1CCOC2=C1C=CC=C2N2CCN(CC2)CCNC(=O)C2CCCCC2 | C21H31N3O3
